US09079834B2
Step 5: preparation of ethyl N,N-bis(tert-butoxycarbonyl)-4,4-difluoro-6-nitro-L-norleucinate
To a solution of ethyl(2S,5E)-2-[bis(tert-butoxycarbonyl)amino]-4,4-difluoro-6-nitrohex-5-enoate, from Step 4 (2.81 g, 6.40 mmol) in THF (64 mL) at 6° C. was added sodium borohydride (1.212 g, 32.0 mmol) followed by a slow addition of water (12.8 mL). The reaction mixture was stirred at room temperature for 4 hours, poured into 10% KH2PO4, and extracted with EtOAc (2×). The combined organics were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford 2.725 g of the title compound (colorless oil) that was used without further purification.

reactant | ethyl(2S,5E)-2-[bis(tert-butoxycarbonyl)amino]-4,4-difluoro-6-nitrohex-5-enoate | C(C)(C)(C)OC(=O)N([C@H](C(=O)OCC)CC(\C=C\[N+](=O)[O-])(F)F)C(=O)OC(C)(C)C | C18H28F2N2O8
reactant | sodium borohydride | 32.0 mmol, 1.212 g | [BH4-].[Na+]
reactant | water | 12.8 mL | O | H2O
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | THF | 64 mL | C1CCOC1 | C4H8O
product | ethyl N,N-bis(tert-butoxycarbonyl)-4,4-difluoro-6-nitro-L-norleucinate | 2.725 g | C(C)(C)(C)OC(=O)N([C@@H](CC(CC[N+](=O)[O-])(F)F)C(=O)OCC)C(=O)OC(C)(C)C | C18H30F2N2O8
